US05250537
2-Fluoro-5,6,7,8,9,10-hexahydro-7,10-iminocyclohept[b]indole
This compound was prepared from 4-fluorophenylhydrazine and nortropinone by the procedures described in Example 1, Method A (75% yield) or Method B (60% yield). A hydrogen fumarate hemihydrate was prepared in ethanol, mp 145° C. dec; NMR (DMSO-D6) d 1.71-1.78. (1H, m), 1.95-1.98 (1H, m), 2.19-2.22 (2H, m), 2.79 (1H, d, J=16.8 Hz), 3.36 (1H, dd, J-16.9, 4.4 Hz), 4.33 (1H, bs), 5.00 (1H, d, J=4.2 Hz), 6.43 (2H, s), 6.84-6.91 (1H, m), 7.28=7.36 (2H, m), 11.30 (1H, s). Anal. (C13H13N2F.C4H4O4.0.5H2O).

reactant | 4-fluorophenylhydrazine | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | nortropinone | C1CC2CC(=O)CC1N2 | C7H11NO
solvent | ethanol | C(C)O | C2H6O
product | 2-Fluoro-5,6,7,8,9,10-hexahydro-7,10-iminocyclohept[b]indole | 75% yield | FC=1C=C2C3=C(NC2=CC1)CC1CCC3N1 | C13H13FN2
